US07211694B2
2.00 g of 4-dimethylamino-4-phenylcyclohexanol were dissolved in 20 ml of dimethylformamide; 1.13 g of potassium tert.-butoxide were added and stirring was carried out for 45 minutes, before 1.45 g of 3-fluorobenzyl chloride were added dropwise in the course of 15 minutes. After stirring overnight, the mixture was added to 25 ml of ice-water and extracted repeatedly with ethyl acetate. The combined extracts were washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated. The resulting crude product (2.66 g) was separated on silica gel with hexane/diethyl ether (V:V=1:1). 1.02 g of [4-(4-fluorobenzyloxy)-1-phenylcyclohexyl]dimethylamine were obtained and, as described for Example 1, were converted into 1.05 g of the corresponding hydrochloride using chlorotrimethylsilane and water in 2-butanone.

reactant | 4-dimethylamino-4-phenylcyclohexanol | 2.00 g | CN(C1(CCC(CC1)O)C1=CC=CC=C1)C | C14H21NO
reactant | potassium tert.-butoxide | 1.13 g | CC(C)([O-])C.[K+]
reactant | 3-fluorobenzyl chloride | 1.45 g | FC=1C=C(CCl)C=CC1 | C7H6ClF
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | [4-(4-fluorobenzyloxy)-1-phenylcyclohexyl]dimethylamine | 1.02 g | FC1=CC=C(COC2CCC(CC2)(C2=CC=CC=C2)N(C)C)C=C1 | C21H26FNO
